US04503062
6,7-Dichloro-1-(4-chlorophenyl)-3,4-dihydronaphthalene (3.0 g.) was dissolved in acetone (80 ml.), then water (30 ml.) was added, followed by a solution of N-bromoacetamide (3.0 g.) in acetone (40 ml.), and the mixture was stirred for 2 hours. The reaction mixture was then poured into water (150 ml.) and extracted with ether (3×80 ml.), the extracts were combined and dried, and the solvent was evaporated under reduced pressure to leave an oil. This residual oil was chromatographed on silica (Merck's Grade 7734), using 30% by volume of diethyl ether in petroleum ether (b.p. 60°-80° C.) as the eluant, to give the required 2-bromo-6,7-dichloro-1-(4-chlorophenyl)-1,2,3,4-tetrahydro-1-naphthol, m.p. 103°-104.5° C.

reactant | 6,7-Dichloro-1-(4-chlorophenyl)-3,4-dihydronaphthalene | 3.0 g | ClC=1C=C2CCC=C(C2=CC1Cl)C1=CC=C(C=C1)Cl | C16H11Cl3
reactant | water | 30 ml | O | H2O
reactant | N-bromoacetamide | 3.0 g | BrNC(C)=O | C2H4BrNO
reactant | water | 150 ml | O | H2O
solvent | acetone | 80 ml | CC(=O)C | C3H6O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 2-bromo-6,7-dichloro-1-(4-chlorophenyl)-1,2,3,4-tetrahydro-1-naphthol | BrC1C(C2=CC(=C(C=C2CC1)Cl)Cl)(O)C1=CC=C(C=C1)Cl | C16H12BrCl3O
